US07994203B2
To a cooled (0° C.) stirred solution of 2,4-dichlorobenzaldehyde (2 g, 11.43 mmol) in THF (50 ml) under N2 is added isobutyllithium (7.86 ml, 12.57 mmol) slowly and the reaction is stirred at RT over the weekend. The reaction mixture is added to sat. ammonium chloride (100 ml) and extracted with EtOAc (140 ml). The organic portion is washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product is purified by chromatography on silica (70 g/150 ml silica-column) eluting with 10% EtOAc/iso-hexane to give (2,4-dichloro-phenyl)-3-methyl-butan-1-ol as a yellow oil; 1H NMR (400 MHz, CDCl3) δ 7.53 (1H, d, J 8.3), 7.36 (1H, d, J 2.0), 7.29 (1H, dd, J 8.3, 2.0), 5.18 (1H, dd, J 9.2, 3.7), 1.88 (1H, m), 1.61 (1H, ddd, 14.0, 9.2, 4.7), 1.52 (1H, ddd, 14.0, 9.1, 3.7), 1.03 (3H, d, J 6.6), 0.99 (3H, d, J 6.6).

reactant | 2,4-dichlorobenzaldehyde | 11.43 mmol, 2 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | isobutyllithium | 12.57 mmol, 7.86 ml | C(C(C)C)[Li]
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (2,4-dichloro-phenyl)-3-methyl-butan-1-ol | ClC1=C(C=CC(=C1)Cl)C(CC(C)C)O | C11H14Cl2O
